US08383827B2
N-((5-(2-chlorophenyl)pyridin-3-yl)(cyclopropyl)methyl)ethanesulfonamide
A mixture of 2-chlorophenylboronic acid (24 mg, 0.16 mmol), N-((5-bromopyridin-3-yl)(cyclopropyl)methyl)ethanesulfonamide (50 mg, 0.16 mmol), PdCl2(PPh3)2 (9 mg, 0.01 mmol) and Na2CO3 (2 M in water, 0.16 mL, 0.32 mmol) in DMF(1.5 mL) was heated at 100° C. for 2 h. After concentration, the residue was dissolved in DCM and filtered. The filtrates were concentrated and purified by flash column (EtOAc/Heptane, v/v, 0-40%) to give the title compound (12 mg, 23%); ESI-MS m/z: 351 [M+1]+, 1H-NMR (MeOD, 400 MHz) δ 8.65 (1H, d, J=2.0 Hz), 8.55 (1H, d, J=2.0 Hz), 8.04 (1H, t, J=2.0 Hz), 7.61-7.58 (1H, m), 7.48-7.44 (3H, m), 4.29 (1H, d, 0.1=8.8 Hz), 3.02-2.89 (2H, m), 1.34-1.28 (1H, m), 1.28 (1H, t, J=7.2 Hz), 0.80-0.75 (1H, m), 0.67-0.60 (2H, m), 0.51-0.47 (1H, m)

reactant | 2-chlorophenylboronic acid | 0.16 mmol, 24 mg | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | N-((5-bromopyridin-3-yl)(cyclopropyl)methyl)ethanesulfonamide | 0.16 mmol, 50 mg | BrC=1C=C(C=NC1)C(NS(=O)(=O)CC)C1CC1 | C11H15BrN2O2S
reactant | Na2CO3 | 0.32 mmol, 2 M, 0.16 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(PPh3)2 | 0.01 mmol, 9 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-((5-(2-chlorophenyl)pyridin-3-yl)(cyclopropyl)methyl)ethanesulfonamide | 12 mg, 23% | ClC1=C(C=CC=C1)C=1C=C(C=NC1)C(NS(=O)(=O)CC)C1CC1 | C17H19ClN2O2S
